US04374829
N-(1-Carboxy-3-methylbutyl)-L-alanyl-L-isoleucine
A solution of L-alanyl-L-isoleucine (150 mg) and 4-methyl-2-oxopentanoic acid sodium salt (564 mg) in water was adjusted to pH 7 and treated with 140 mg of sodium cyanoborohydride at room temperature for several days. The reaction was quenched with strong acid ion-exchange resin, added to a column of the same resin, and eluted with 2% pyridine in water. Freeze drying afforded 200 mg (84.9%) of white fluffy solid, N-(1-carboxy-3-methylbutyl)-L-alanyl-L-isoleucine. Mass spectrum showed peaks at 460 for the disilylated derivative, and 445 for disilyl molecular ion minus methyl (460-15). The nmr spectrum showed a broad doublet centered at 0.95 ppm, complex absorption in the 1.2-1.8 ppm range, and a broad weak singlet at 3.7 ppm.

reactant | L-alanyl-L-isoleucine | 150 mg | N[C@@H](C)C(=O)N[C@@H]([C@@H](C)CC)C(=O)O | C9H18N2O3
reactant | 4-methyl-2-oxopentanoic acid sodium salt | 564 mg | [Na+].CC(CC(C(=O)[O-])=O)C
reactant | sodium cyanoborohydride | 140 mg | C(#N)[BH3-].[Na+]
solvent | water | O | H2O
product | N-(1-Carboxy-3-methylbutyl)-L-alanyl-L-isoleucine | 200 mg, 84.9% | C(=O)(O)C(CC(C)C)N[C@@H](C)C(=O)N[C@@H]([C@@H](C)CC)C(=O)O | C15H28N2O5
